US06479487B1
1-(3-Methoxypropyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-3-methoxypropane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-3-methoxypropane | ClCCCOC | C4H9ClO
product | 1-(3-Methoxypropyl)-4-piperidone | COCCCN1CCC(CC1)=O | C9H17NO2
